US06350749B1
To a suspension of 60% sodium hydride (0.18 g, washed with hexane thrice) in dimethylformamide (10 ml) was added 6-phenyl-4,5,6,7-tetrahydroindol-4-one (0.8 g), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added a solution of benzyl bromide (0.71 g) in dimethylformamide (3 ml), and the mixture was stirred at the same temperature for 2.5 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) and recrystallized from ethyl acetate-isopropylether to give colorless crystals of 1-benzyl-6-phenyl-4,5,6,7-tetrahydroindol-4-one (0.86 g).

reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | 6-phenyl-4,5,6,7-tetrahydroindol-4-one | 0.8 g | C1(=CC=CC=C1)C1CC(C=2C=CNC2C1)=O | C14H13NO
reactant | benzyl bromide | 0.71 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-6-phenyl-4,5,6,7-tetrahydroindol-4-one | 0.86 g | C(C1=CC=CC=C1)N1C=CC=2C(CC(CC12)C1=CC=CC=C1)=O | C21H19NO
